US07351858B2
Methyl 2-[2-(4-{2-[benzyl(ethyl)amino]-2-oxoethoxy}phenyl)ethoxy]benzoate (0.138 g, 0.308 mmol) was dissolved in a mixture of THF/water (1/1, 4 ml). Lithium hydroxide (0.015 g, 0.617 mmol) was added. The reaction was performed in an single node microwave oven (14 min, 150 deg). Workup by removing the solvent by evaporation and addition of HCl (2 ml, 1 M). The waterphase was extracted with two portions of EtOAc (20 ml), the organic phase was dried (MgSO4) and the solvent was removed by evaporation to give 0.146 g of 2-[2-(4-{2-[benzyl(ethyl)amino]-2-oxoethoxy}phenyl)ethoxy]benzoic acid.

reactant | Methyl 2-[2-(4-{2-[benzyl(ethyl)amino]-2-oxoethoxy}phenyl)ethoxy]benzoate | 0.308 mmol, 0.138 g | C(C1=CC=CC=C1)N(C(COC1=CC=C(C=C1)CCOC1=C(C(=O)OC)C=CC=C1)=O)CC | C27H29NO5
reactant | Lithium hydroxide | 0.617 mmol, 0.015 g | [OH-].[Li+]
solvent | THF water | 4 ml | C1CCOC1.O
product | 2-[2-(4-{2-[benzyl(ethyl)amino]-2-oxoethoxy}phenyl)ethoxy]benzoic acid | 0.146 g | C(C1=CC=CC=C1)N(C(COC1=CC=C(C=C1)CCOC1=C(C(=O)O)C=CC=C1)=O)CC | C26H27NO5
